2119-01-24 07:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**1-23**]:
   - Extubated, did well off of vent initially, but increased WOB this
   morning
   - Placed on BiPap for increasing PCO2
   - Hypertensive to 190
s systolic this morning, treated with hydralazine
   & nitro gtt
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2119-1-23**] 12:43 PM
   Metronidazole - [**2119-1-24**] 02:06 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2119-1-23**] 12:44 PM
   Heparin Sodium (Prophylaxis) - [**2119-1-23**] 10:17 PM
   Metoprolol - [**2119-1-24**] 04:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Dyspnea, Tachypnea
   Flowsheet Data as of  [**2119-1-24**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**20**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.1
C (97
   HR: 66 (57 - 86) bpm
   BP: 189/71(103) {92/44(52) - 189/167(173)} mmHg
   RR: 24 (14 - 29) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,259 mL
                                                                    959 mL
   PO:
             TF:
   IVF:
                                                                  1,259 mL
                                                                    959 mL
   Blood products:
   Total out:
                                                                    511 mL
                                                                    345 mL
   Urine:
                                                                    511 mL
                                                                    345 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    748 mL
                                                                    614 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 284 (284 - 387) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 33
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 10 cmH2O
   Plateau: 20 cmH2O
   SpO2: 93%
   ABG: 7.40/70/69/40/14
   Ve: 5.6 L/min
   PaO2 / FiO2: 173
   Physical Examination
   General Appearance: Mild distress from dyspnea
   Head, Ears, Nose, Throat: Normocephalic
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   256 K/uL
   13.3 g/dL
   150
   1.1 mg/dL
   40 mEq/L
   2.9 mEq/L
   22 mg/dL
   94 mEq/L
   141 mEq/L
   43.6 %
   9.4 K/uL
        [image002.jpg]
                             [**2119-1-23**]  08:43 AM
                             [**2119-1-23**]  01:29 PM
                             [**2119-1-23**]  02:35 PM
                             [**2119-1-23**]  03:14 PM
                             [**2119-1-23**]  05:32 PM
                             [**2119-1-23**]  09:23 PM
                             [**2119-1-24**]  04:21 AM
                             [**2119-1-24**]  06:00 AM
   WBC
   9.4
   Hct
   43.6
   Plt
   256
   Cr
   1.1
   TCO2
   44
   41
   44
   46
   49
   45
   Glucose
   156
   150
   Other labs: PT / PTT / INR:12.1/30.2/1.0, Lactic Acid:1.3 mmol/L,
   Ca++:9.1 mg/dL, Mg++:1.7 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   80 F with laryngeal SCC, breast CA, COPD, diabetes s/p intubation for
   hypercarbic respiratory failure
   .
   # Hypercarbic respiratory failure-Etiology still unclear, although
   known to have COPD +/- OSA. Possible hypoventilation induced by
   sedative medications. Cannot rule out aspiration but less likely given
   unchanged chest radiograph.
   - lasix bolus x 1
   - TTE to r/o worsening of known valvular disease
   - follow ABGs/VBGs
   - c/w empiric levo/flagyl
   - f/u sputum cx
   .
   #. Hx of hypertension: Systolic increased to 190s this morning, then
   decreased rapidly with short duration nitroglycerin gtt. Now off
   anti-hypertensives.
   .
   #. Hyperlipidemia
   - continue ASA, atorvastatin
   .
   # DM- SSI for now
   .
   # FEN: No IVF, replete electrolytes, regular diet
   # Prophylaxis: Subcutaneous heparin
   # Access: remove femoral line, PICC, PIVx1; will removed femoral line
   (placed during code [**1-23**]); consider re-attempting arterial line if VBG
   inadequate
   # Communication: [**Doctor Last Name 174**] [**Telephone/Fax (1) 11254**]
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2119-1-23**] 07:50 AM
   22 Gauge - [**2119-1-23**] 08:18 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2119-01-25 06:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2119-1-24**] 08:13 AM
 PICC LINE - START [**2119-1-24**] 03:21 PM
 MULTI LUMEN - STOP [**2119-1-24**] 08:19 PM
   [**1-24**]:
   - Increased WOB this morning; PCO2 88. BiPAP placed with great relief.
   Also severely hypertensive to 190's. Hydral x 2 with no response, but
   NTG gtt brought down pressure. Continued on NTG gtt for much of day,
   then d/c'd when persistently normotensive
   - In afternoon, BiPAP taken off for 10 minutes, BP up to 220. NTG
   restarted
   - PICC line placed
   - Some of home anti-hypertensives started (amlodipine, atenolol)
   - Multiple doses of lasix given but net positive for day
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2119-1-23**] 12:43 PM
   Metronidazole - [**2119-1-25**] 01:50 AM
   Infusions:
   Nitroglycerin - 0.4 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2119-1-24**] 10:13 AM
   Heparin Sodium (Prophylaxis) - [**2119-1-25**] 12:04 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-1-25**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**20**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.6
C (97.9
   HR: 66 (64 - 87) bpm
   BP: 137/58(78) {103/44(58) - 224/153(157)} mmHg
   RR: 17 (8 - 37) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,621 mL
                                                                    291 mL
   PO:
             TF:
   IVF:
                                                                  1,621 mL
                                                                    291 mL
   Blood products:
   Total out:
                                                                  1,252 mL
                                                                    450 mL
   Urine:
                                                                  1,252 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    369 mL
                                                                   -159 mL
   Respiratory support
   O2 Delivery Device: Other
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 715 (541 - 762) mL
   PS : 12 cmH2O
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 30%
   PIP: 18 cmH2O
   SpO2: 96%
   ABG: 7.33/87.[**Numeric Identifier 7**]/64/43/15
   Ve: 9.6 L/min
   PaO2 / FiO2: 213
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   258 K/uL
   13.0 g/dL
   216 mg/dL
   1.3 mg/dL
   43 mEq/L
   3.2 mEq/L
   29 mg/dL
   93 mEq/L
   142 mEq/L
   40.5 %
   4.9 K/uL
        [image002.jpg]
                             [**2119-1-23**]  01:29 PM
                             [**2119-1-23**]  02:35 PM
                             [**2119-1-23**]  03:14 PM
                             [**2119-1-23**]  05:32 PM
                             [**2119-1-23**]  09:23 PM
                             [**2119-1-24**]  04:21 AM
                             [**2119-1-24**]  06:00 AM
                             [**2119-1-24**]  07:49 AM
                             [**2119-1-24**]  04:57 PM
                             [**2119-1-25**]  03:28 AM
   WBC
   9.4
   4.9
   Hct
   43.6
   40.5
   Plt
   256
   258
   Cr
   1.1
   1.1
   1.3
   TCO2
   41
   44
   46
   49
   45
   49
   Glucose
   156
   150
   109
   216
   Other labs: PT / PTT / INR:11.6/31.8/1.0, Lactic Acid:0.9 mmol/L,
   Ca++:9.2 mg/dL, Mg++:2.1 mg/dL, PO4:3.5 mg/dL
   Microbiology: ET sputum  GRAM STAIN (Final [**2119-1-23**]):
         >25 PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):   BUDDING YEAST.
   Assessment and Plan
 PNEUMONIA, ASPIRATION
 FALL(S)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   80 F with laryngeal SCC, breast CA, COPD, diabetes s/p intubation for
   hypercarbic respiratory failure
   .
   # Hypercarbic respiratory failure-Etiology still unclear, although
   known to have COPD +/- OSA. Possible hypoventilation induced by
   sedative medications. Cannot rule out aspiration but less likely given
   unchanged chest radiograph.
   - lasix bolus x 1
   - TTE to r/o worsening of known valvular disease
   - follow ABGs/VBGs
   - c/w empiric levo/flagyl
   - f/u sputum cx
   .
   #. Hx of hypertension: Systolic increased to 190s this morning, then
   decreased rapidly with short duration nitroglycerin gtt. Now off
   anti-hypertensives.
   .
   #. Hyperlipidemia
   - continue ASA, atorvastatin
   .
   # DM- SSI for now
   .
   # FEN: No IVF, replete electrolytes, regular diet
   # Prophylaxis: Subcutaneous heparin
   # Access: remove femoral line, PICC, PIVx1; will removed femoral line
   (placed during code [**1-23**]); consider re-attempting arterial line if VBG
   inadequate
   # Communication: [**Doctor Last Name 174**] [**Telephone/Fax (1) 11254**]
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2119-1-24**] 03:21 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2119-01-26 07:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - On BiPap briefly in AM after off it overnight
   - Then on shovel mask
   - Restarted home Lisinopril
   - Lasix diuresis begun (80 IV), Cr 1.3 --> 1.5 but net -700cc
   - Switched to PO steroids (was getting Solumedrol IV TID --> now Pred
   60 daily)
   - Blood sugars running high (227) --> started low dose insulin sliding
   scale
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2119-1-25**] 09:25 AM
   Levofloxacin - [**2119-1-25**] 12:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2119-1-25**] 09:25 AM
   Furosemide (Lasix) - [**2119-1-25**] 01:30 PM
   Heparin Sodium (Prophylaxis) - [**2119-1-26**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Psychiatric / Sleep: Mild confusion
   Flowsheet Data as of  [**2119-1-26**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**20**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 35.8
C (96.4
   HR: 73 (59 - 88) bpm
   BP: 124/88(92) {105/56(66) - 174/92(100)} mmHg
   RR: 23 (16 - 35) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.3 kg (admission): 82 kg
             Total In:
                                                                  1,072 mL
                                                                     55 mL
   PO:
                                                                    360 mL
             TF:
   IVF:
                                                                    712 mL
                                                                     55 mL
   Blood products:
   Total out:
                                                                  1,700 mL
                                                                    340 mL
   Urine:
                                                                  1,700 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -628 mL
                                                                   -285 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 533 (533 - 533) mL
   PS : 12 cmH2O
   RR (Spontaneous): 25
   PEEP: 0 cmH2O
   FiO2: 30%
   SpO2: 98%
   ABG: ///40/
   Ve: 9.8 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed, Tone: Normal
   Labs / Radiology
   292 K/uL
   13.6 g/dL
   173 mg/dL
   1.5 mg/dL
   40 mEq/L
   4.2 mEq/L
   43 mg/dL
   94 mEq/L
   143 mEq/L
   42.4 %
   10.7 K/uL
        [image002.jpg]
                             [**2119-1-23**]  05:32 PM
                             [**2119-1-23**]  09:23 PM
                             [**2119-1-24**]  04:21 AM
                             [**2119-1-24**]  06:00 AM
                             [**2119-1-24**]  07:49 AM
                             [**2119-1-24**]  04:57 PM
                             [**2119-1-25**]  03:28 AM
                             [**2119-1-25**]  06:37 PM
                             [**2119-1-25**]  10:33 PM
                             [**2119-1-26**]  05:22 AM
   WBC
   9.4
   4.9
   8.7
   10.7
   Hct
   43.6
   40.5
   42.1
   42.4
   Plt
   [**Telephone/Fax (3) 11325**]92
   Cr
   1.1
   1.1
   1.3
   1.5
   1.5
   TCO2
   49
   45
   49
   Glucose
   156
   150
   109
   [**Telephone/Fax (3) 11326**]
   173
   Other labs: PT / PTT / INR:11.6/31.8/1.0, Lactic Acid:0.9 mmol/L,
   Ca++:9.4 mg/dL, Mg++:2.6 mg/dL, PO4:3.4 mg/dL
   Imaging: Portable AP chest radiograph was reviewed. The right PICC line
   tip is at the
   level of superior mid SVC. Cardiomediastinal silhouette is stable.
   Bibasal atelectasis is most likely present, bilateral pleural effusions
   are unchanged.
   There is no evidence of failure. Overall minimal change compared to the
   prior
   radiograph has been demonstrated.
   Microbiology: [**1-23**] Sputum Cx:    GRAM STAIN (Final [**2119-1-23**]): >25 PMNs
   and <10 epithelial cells/100X field.  2+   (1-5 per 1000X FIELD):
   BUDDING YEAST.
      RESPIRATORY CULTURE (Final [**2119-1-25**]):  Commensal Respiratory Flora
   Absent.   YEAST. MODERATE GROWTH.
   Assessment and Plan
   80F with laryngeal SCC, breast CA, COPD, diabetes s/p intubation for
   hypercarbic respiratory failure
   .
   # Hypercarbic respiratory failure-Etiology still unclear. Aspiration
   pneumonia possible, cavitating lesion noted on prior CXR, but white
   counts stable, could also be squamous cell met. Likely a chronic CO2
   retainer, has known COPD. Had EF 55% on recent Echo and [**First Name9 (NamePattern2) 8881**] [**Male First Name (un) **]
t seem
   to show fluid overload, but cardiac failure may also be contributing
   factor. Note BNP 1,504, respiratory distress that seems to follow SBP
   spikes, relief of same with BiPAP, Nitro drip and diuresis
   - Diurese with Lasix, goal net (-500) cc.
   - [**Hospital1 **] lytes
   - C/w home lisinopril
   - c/w empiric levo/flagyl x1 more day, to complete 5 day course
   - f/u sputum cx
   - Will taper steroids, to 40 mg starting tomorrow
   - Outpatient F/u with [**Doctor Last Name **]
   .
   #. Hx of hypertension: On home ACE, BB
   - c/w home meds
   - increase ACE inhibitor for any added anti-hypertensive effect, given
   likely heart failure component
   .
   #. Hyperlipidemia
   - continue ASA, atorvastatin
   .
   # DM- SSI for now; may need to pull back as steroids tapered
   .
   # FEN: No IVF, replete electrolytes, regular diet
   # Prophylaxis: Subcutaneous heparin, Pantoprazole (will change to PO)
   # Access: PICC
   # Communication: [**Doctor Last Name 174**] [**Telephone/Fax (1) 11254**]
   # Code:  Full (discussed with patient)
   # Disposition: screening for rehab
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2119-1-24**] 03:21 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2119-01-26 11:41:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Feeling better
   24 Hour Events:
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2119-1-25**] 09:25 AM
   Levofloxacin - [**2119-1-25**] 12:00 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2119-1-25**] 01:30 PM
   Heparin Sodium (Prophylaxis) - [**2119-1-26**] 08:58 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, Dyspnea, Tachypnea, Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine,
   Prednisone
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2119-1-26**] 11:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**20**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.3
C (97.3
   HR: 75 (59 - 88) bpm
   BP: 119/62(75) {105/49(66) - 174/92(100)} mmHg
   RR: 25 (20 - 35) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.3 kg (admission): 82 kg
             Total In:
                                                                  1,072 mL
                                                                     85 mL
   PO:
                                                                    360 mL
                                                                     30 mL
   TF:
   IVF:
                                                                    712 mL
                                                                     55 mL
   Blood products:
   Total out:
                                                                  1,700 mL
                                                                    450 mL
   Urine:
                                                                  1,700 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -628 mL
                                                                   -365 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ///40/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic), 2/6 sem
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Hyperresonant: , No(t) Dullness : ), (Breath Sounds: No(t)
   Clear : , Crackles : scattered insp, No(t) Bronchial: , Wheezes : ,
   Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Not assessed, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   13.6 g/dL
   292 K/uL
   173 mg/dL
   1.5 mg/dL
   40 mEq/L
   4.2 mEq/L
   43 mg/dL
   94 mEq/L
   143 mEq/L
   42.4 %
   10.7 K/uL
        [image002.jpg]
                             [**2119-1-23**]  05:32 PM
                             [**2119-1-23**]  09:23 PM
                             [**2119-1-24**]  04:21 AM
                             [**2119-1-24**]  06:00 AM
                             [**2119-1-24**]  07:49 AM
                             [**2119-1-24**]  04:57 PM
                             [**2119-1-25**]  03:28 AM
                             [**2119-1-25**]  06:37 PM
                             [**2119-1-25**]  10:33 PM
                             [**2119-1-26**]  05:22 AM
   WBC
   9.4
   4.9
   8.7
   10.7
   Hct
   43.6
   40.5
   42.1
   42.4
   Plt
   [**Telephone/Fax (3) 11325**]92
   Cr
   1.1
   1.1
   1.3
   1.5
   1.5
   TCO2
   49
   45
   49
   Glucose
   156
   150
   109
   [**Telephone/Fax (3) 11326**]
   173
   Other labs: PT / PTT / INR:11.6/31.8/1.0, Lactic Acid:0.9 mmol/L,
   Ca++:9.4 mg/dL, Mg++:2.6 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 PNEUMONIA, ASPIRATION
 FALL(S)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   She is clearly improving. Unclear if that was diuresis or resolving
   resp infection. She has severe chronic hypercapnic resp failure at
   baseline and will need O2 in the future. Starting to taper prednisone
   to off in 10d.  Will continue to adjust her cardiac meds - on
   lisinopril but creat is sl elevated.  Will need to be watched closely
   over next several days. Continuing MDIs.  Will benefit from rehab so
   will have her screened.
   ICU Care
   Nutrition:
   Comments: Full
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2119-1-24**] 03:21 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to other facility
   Total time spent: 35 minutes

2119-01-27 07:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Tapered steroids to 40
   - Increased Lisinopril to 30
   - Aiming for negative 500 mL I/O
   - Ortho: touchdown weight bearing on L ankle, f/u ortho in [**1-25**] weeks
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2119-1-25**] 09:25 AM
   Levofloxacin - [**2119-1-25**] 12:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2119-1-26**] 12:24 PM
   Heparin Sodium (Prophylaxis) - [**2119-1-26**] 11:39 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Cough
   Flowsheet Data as of  [**2119-1-27**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**20**] AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36
C (96.8
   HR: 75 (52 - 80) bpm
   BP: 133/56(76) {110/45(65) - 160/89(95)} mmHg
   RR: 22 (18 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.3 kg (admission): 82 kg
                  Total In:
                                                                    175 mL
                  PO:
                                                                    120 mL
                  TF:
   IVF:
                                                                     55 mL
   Blood products:
   Total out:
                                                                    875 mL
                                                                    165 mL
   Urine:
                                                                    875 mL
                                                                    165 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -700 mL
                                                                   -165 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///47/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed, Tone: Normal
   Labs / Radiology
   249 K/uL
   12.8 g/dL
   112 mg/dL
   1.3 mg/dL
   47 mEq/L
   3.5 mEq/L
   47 mg/dL
   95 mEq/L
   143 mEq/L
   41.0 %
   11.9 K/uL
        [image002.jpg]
                             [**2119-1-23**]  09:23 PM
                             [**2119-1-24**]  04:21 AM
                             [**2119-1-24**]  06:00 AM
                             [**2119-1-24**]  07:49 AM
                             [**2119-1-24**]  04:57 PM
                             [**2119-1-25**]  03:28 AM
                             [**2119-1-25**]  06:37 PM
                             [**2119-1-25**]  10:33 PM
                             [**2119-1-26**]  05:22 AM
                             [**2119-1-27**]  05:32 AM
   WBC
   9.4
   4.9
   8.7
   10.7
   11.9
   Hct
   43.6
   40.5
   42.1
   42.4
   41.0
   Plt
   [**Telephone/Fax (3) 11325**]92
   249
   Cr
   1.1
   1.1
   1.3
   1.5
   1.5
   1.3
   TCO2
   45
   49
   Glucose
   156
   150
   109
   [**Telephone/Fax (2) 11348**]12
   Other labs: PT / PTT / INR:11.6/31.8/1.0, Lactic Acid:0.9 mmol/L,
   Ca++:9.1 mg/dL, Mg++:2.4 mg/dL, PO4:3.1 mg/dL
   Microbiology: [**1-23**] Sputum: GRAM STAIN (Final [**2119-1-23**]): >25 PMNs and <10
   epithelial cells/100X field. 2+   (1-5 per 1000X FIELD):   BUDDING
   YEAST.
      RESPIRATORY CULTURE (Final [**2119-1-25**]): Commensal Respiratory Flora
   Absent. YEAST. MODERATE GROWTH.
   Assessment and Plan
   80F with laryngeal SCC, breast CA, COPD, diabetes s/p intubation for
   hypercarbic respiratory failure
   .
   # Hypercarbic respiratory failure-Etiology still unclear. Aspiration
   pneumonia possible, cavitating lesion noted on prior CXR, but white
   counts stable, could also be squamous cell met. Likely a chronic CO2
   retainer, has known COPD. Had EF 55% on recent Echo and [**First Name9 (NamePattern2) 8881**] [**Male First Name (un) **]
t seem
   to show fluid overload, but cardiac failure may also be contributing
   factor. Note BNP 1,504, respiratory distress that seems to follow SBP
   spikes, relief of same with BiPAP, Nitro drip and diuresis
   - Diurese with Lasix, goal net (-500) cc.
   - [**Hospital1 **] lytes
   - C/w home lisinopril
   - c/w empiric levo/flagyl x1 more day, to complete 5 day course
   - f/u sputum cx
   - Will taper steroids, to 40 mg starting tomorrow
   - Outpatient F/u with [**Doctor Last Name **]
   .
   #. Hx of hypertension: On home ACE, BB
   - c/w home meds
   - increase ACE inhibitor for any added anti-hypertensive effect, given
   likely heart failure component
   .
   #. Hyperlipidemia
   - continue ASA, atorvastatin
   .
   # DM- SSI for now; may need to pull back as steroids tapered
   .
   # FEN: No IVF, replete electrolytes, regular diet
   # Prophylaxis: Subcutaneous heparin, Pantoprazole (will change to PO)
   # Access: PICC
   # Communication: [**Doctor Last Name 174**] [**Telephone/Fax (1) 11254**]
   # Code:  Full (discussed with patient)
   # Dispo: screening for rehab
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2119-1-24**] 03:21 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2119-01-27 08:56:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Breathing more comfortable overnight
   24 Hour Events:
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2119-1-25**] 09:25 AM
   Levofloxacin - [**2119-1-25**] 12:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2119-1-26**] 12:24 PM
   Heparin Sodium (Prophylaxis) - [**2119-1-26**] 11:39 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, Dyspnea, Tachypnea, Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2119-1-27**] 08:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**20**] AM
   Tmax: 36.1
C (97
   Tcurrent: 35.6
C (96
   HR: 68 (52 - 80) bpm
   BP: 125/47(67) {110/45(65) - 160/89(95)} mmHg
   RR: 24 (18 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 82.4 kg (admission): 82 kg
                  Total In:
                                                                    175 mL
                  PO:
                                                                    120 mL
                  TF:
   IVF:
                                                                     55 mL
   Blood products:
   Total out:
                                                                    875 mL
                                                                    285 mL
   Urine:
                                                                    875 mL
                                                                    285 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -700 mL
                                                                   -285 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///47/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: No(t) Resonant : , Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   Wheezes : scattered, Diminished: , No(t) Absent : , No(t) Rhonchorous:
   )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone:
   Not assessed
   Labs / Radiology
   12.8 g/dL
   249 K/uL
   112 mg/dL
   1.3 mg/dL
   47 mEq/L
   3.5 mEq/L
   47 mg/dL
   95 mEq/L
   143 mEq/L
   41.0 %
   11.9 K/uL
        [image002.jpg]
                             [**2119-1-23**]  09:23 PM
                             [**2119-1-24**]  04:21 AM
                             [**2119-1-24**]  06:00 AM
                             [**2119-1-24**]  07:49 AM
                             [**2119-1-24**]  04:57 PM
                             [**2119-1-25**]  03:28 AM
                             [**2119-1-25**]  06:37 PM
                             [**2119-1-25**]  10:33 PM
                             [**2119-1-26**]  05:22 AM
                             [**2119-1-27**]  05:32 AM
   WBC
   9.4
   4.9
   8.7
   10.7
   11.9
   Hct
   43.6
   40.5
   42.1
   42.4
   41.0
   Plt
   [**Telephone/Fax (3) 11325**]92
   249
   Cr
   1.1
   1.1
   1.3
   1.5
   1.5
   1.3
   TCO2
   45
   49
   Glucose
   156
   150
   109
   [**Telephone/Fax (2) 11348**]12
   Other labs: PT / PTT / INR:11.6/31.8/1.0, Lactic Acid:0.9 mmol/L,
   Ca++:9.1 mg/dL, Mg++:2.4 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 PNEUMONIA, ASPIRATION
 FALL(S)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   she is significantly improved. Still unclear what happened this adm.
   She has severe emphysema at baseline with evidence of hypercarbia but
   may have some component of CHF superimposed. We are d/cing [**Last Name (LF) 1679**], [**First Name3 (LF) 124**]
   discharge on standing furosemide.
   ICU Care
   Nutrition:
   Comments: Full
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2119-1-24**] 03:21 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 35 minutes